US08975254B2
a) Ethyl 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxylate
Ethyl chlorooximidoacetate (1 g, 6.60 mmol) and 2-(but-3-ynyloxy)tetrahydro-2H-pyran (3.05 g, 19.80 mmol) were dissolved in diethyl ether (20 ml). Triethylamine (0.668 g, 6.60 mmol) was diluted with diethyl ether (10 ml) and added dropwise into previous mixture. After addition the reaction mixture was extracted with water and the organic layer was dried with Na2SO4, filtered and evaporated. LC-MS: [M+1]=172.17.

reactant | Ethyl chlorooximidoacetate | 6.60 mmol, 1 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | 2-(but-3-ynyloxy)tetrahydro-2H-pyran | 19.80 mmol, 3.05 g | C(CC#C)OC1OCCCC1 | C9H14O2
reactant | Triethylamine | 6.60 mmol, 0.668 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | Ethyl 5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxylate | O1C(CCCC1)OCCC1=CC(=NO1)C(=O)OCC | C13H19NO5
